US08980925B2
1-tetradecyloxy-2,6-dimethylbenzene (A8)
The product was generated via general protocol A using 1-bromotetradecane (44.7 mL, 0.147 mol), 2,6-dimethylphenol (20.0 g, 0.162 mol), K2CO3 (81.3 g, 0.588 mol) and CH3CN (150 mL). Yielded 46.5 g (99.3%) of a yellow/orange liquid. 1H NMR (CDCl3, 400 MHz) δ: 7.01 (d, 4J=7.3 Hz, 2H, Ar—H), 6.91 (t, 3J=6.8 Hz, 3H, Ar—H), 3.76 (t, 3J=6.7 Hz, 2H, OCH2), 2.28 (s, 6H, Ar—CH3), 1.81 (p, 3J=7.1 Hz, 2H, OCH2CH2), 1.50 (p, 3J=7.4 Hz, 2H, OCH2CH2CH2), 1.36-1.27 (m, 22H), 0.89 (t, 3J=6.9 Hz, 3H, CH2CH3). 13C NMR (CDCl3, 100 MHz) δ: 156.08, 130.95, 128.71, 123.54, 77.32, 77.00, 76.68, 72.28, 31.93, 30.44, 29.70, 29.68, 29.66, 29.63, 29.57, 29.37, 26.16, 22.69, 16.26, 14.12.

reactant | 1-bromotetradecane | 0.147 mol, 44.7 mL | BrCCCCCCCCCCCCCC | C14H29Br
reactant | 2,6-dimethylphenol | 0.162 mol, 20.0 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | K2CO3 | 0.588 mol, 81.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 150 mL | CC#N | C2H3N
product | 1-tetradecyloxy-2,6-dimethylbenzene | 46.5 g, 99.3% | C(CCCCCCCCCCCCC)OC1=C(C=CC=C1C)C | C22H38O
